US05104504
The experimental procedure was substantially the same as in Example excepting replacement of the benzene as the starting hydrocarbon compound with the same volume of toluene. The reaction mixture after completion of the reaction contained position isomers of methylbenzyl alcohol in a total molar yield of 6332% based on the amount of the rhodium complex used as the catalyst including o-, m- and p-methylbenzyl alcohols in a proportion of 3:60:37. 2-phenylethyl alcohol was not detected in the reaction mixture. Tolualdehyde was produced in a molar yield of 385% as a total value for the o-, m and p-isomers relative to the rhodium complex used as the catalyst.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | methylbenzyl alcohol | CC(C1=CC=CC=C1)O | C8H10O
reactant | 2-phenylethyl alcohol | C1(=CC=CC=C1)CCO | C8H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Tolualdehyde | yield of 385% | C=1(C(=CC=CC1)C=O)C | C8H8O
